US04567264
A solution of 3.5 g of 1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine dihydrochloride salt in water (50 ml) is adjusted to pH 12 with ammonium hydroxide solution and extracted with methylene chloride. The methylene chloride is evaporated to afford 3 g of 1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine as the free base.

reactant | 1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine dihydrochloride salt | 3.5 g | Cl.Cl.COC1=C(OCC(CN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O)C=CC=C1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 50 ml | O | H2O
product | 1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine | 3 g | COC1=C(OCC(CN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O)C=CC=C1 | C24H33N3O4
